US06673804B1
(2) (±)-2-(2-Hydroxyethyl)-N-(4-phenoxybenzenesulfonyl)-N-propargylglycine Allyl Ester
After addition of a solution of sodium hydroxide (1.05 g, 25.5 mmol) in water (7 ml) to a suspension of (±)-α-[N-(4-phenoxybenzenesulfonyl)-N-propargylamino]-γ-butyrolactone (8.42 g, 22.7 mmol) in ethanol (40 ml), the mixture was stirred at room temperature for 3 hours. The solvent of the reaction mixture was evaporated under reduced pressure. The residue, which was an amorphous solid, was dissolved in N,N-dimethylformamide (40 ml). After addition of allyl bromide (2.15 ml, 25.4 mmol) to the solution, the mixture was stirred at room temperature overnight. A saturated aqueous solution of ammonium chloride and water were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by chyromatography on a silica gel column using hexane/ethyl acetate=3/1 as the eluant to give the desired compound (8.29 g, yield 85%) as a pale yellow oil.

reactant | sodium hydroxide | 25.5 mmol, 1.05 g | [OH-].[Na+]
reactant | (±)-α-[N-(4-phenoxybenzenesulfonyl)-N-propargylamino]-γ-butyrolactone | 22.7 mmol, 8.42 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)N(CC#C)C1C(=O)OCC1 | C19H17NO5S
reactant | allyl bromide | 25.4 mmol, 2.15 ml | C(C=C)Br | C3H5Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | water | 7 ml | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | (±)-2-(2-Hydroxyethyl)-N-(4-phenoxybenzenesulfonyl)-N-propargylglycine Allyl Ester | 8.29 g, yield 85% | C(C=C)OC(C(N(CC#C)S(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1)CCO)=O | C22H23NO6S
